US05866567
(3aR*,10aS*)-4-(Chloroacetyl)-9-[4-[3-(2-phenylethyl)ureido]benzyl]-2,3,3a,4,9,10a-hexahydrobenzo[b]-cyclopenta[e][1,4]diazepin-10(1H)-one
To a solution of (3aR*,10aS*)-4-(chloroacetyl)-9-[4-(phenoxycarbonylamino)benzyl]-2,3,3a,4,9,10a-hexahydrobenzo[b]cyclopenta[e][1,4]diazepin-10(1H)-one (151 mg, 0.3 mmol) in DMF (1.5 mL) was added 2-phenylethylamine (38 μl, 0.3 mmol) and the mixture was stirred at room temperature for 4 hours. This reaction mixture was diluted with ethyl acetate and washed with 2 portions of water and, then, with saturated aqueous NaCl solution. This solution was dried over NaSO4 and concentrated under reduced pressure and the residue was crystallized from ethanol-diethyl ether to provide 62 mg (yield 39%) of the title compound. m.p. 224°-226° C.

reactant | (3aR*,10aS*)-4-(chloroacetyl)-9-[4-(phenoxycarbonylamino)benzyl]-2,3,3a,4,9,10a-hexahydrobenzo[b]cyclopenta[e][1,4]diazepin-10(1H)-one | 0.3 mmol, 151 mg | ClCC(=O)N1C2=C(N(C([C@@H]3[C@H]1CCC3)=O)CC3=CC=C(C=C3)NC(=O)OC3=CC=CC=C3)C=CC=C2 | C28H26ClN3O4
reactant | 2-phenylethylamine | 0.3 mmol, 38 μl | C1(=CC=CC=C1)CCN | C8H11N
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (3aR*,10aS*)-4-(Chloroacetyl)-9-[4-[3-(2-phenylethyl)ureido]benzyl]-2,3,3a,4,9,10a-hexahydrobenzo[b]-cyclopenta[e][1,4]diazepin-10(1H)-one | 62 mg, yield 39% | ClCC(=O)N1C2=C(N(C([C@@H]3[C@H]1CCC3)=O)CC3=CC=C(C=C3)NC(=O)NCCC3=CC=CC=C3)C=CC=C2 | C30H31ClN4O3
